US05171860
Methyl N-(benzylsulfonyl)oxamate
A mixture of benzylsulfonamide (16.7 g, 0.0975 mole) and methyloxalylchloride (38 ml, 0.41 mol) was heated at 100°-120° C. for 2 hours. Upon evaporation, there was obtained the title compound, 20.6 g, mp 119°-124° C.

reactant | benzylsulfonamide | 0.0975 mole, 16.7 g | C(C1=CC=CC=C1)S(=O)(=O)N | C7H9NO2S
reactant | methyloxalylchloride | 0.41 mol, 38 ml | COC(=O)C(=O)Cl | C3H3ClO3
product | Methyl N-(benzylsulfonyl)oxamate | C(C1=CC=CC=C1)S(=O)(=O)NC(C(=O)OC)=O | C10H11NO5S
